US05739336
3-(2,3-Dihydroxypropyl)-1,3,8-triazaspiro[4.5]decane-2,4-dione may also be prepared by reaction of tert-butyl 2,4-dioxo-1,3,8-triaza-8-spiro[4.5]decanecarboxylate with an epihalohydrin to give tert-butyl 2,4-dioxo-3-(2,3-epoxypropyl)-1,3,8-triaza-8-spiro[4.5]decanecarboxylate, followed by hydrolysis of the epoxy group and deprotection.

reactant | 3-(2,3-Dihydroxypropyl)-1,3,8-triazaspiro[4.5]decane-2,4-dione | OC(CN1C(NC2(C1=O)CCNCC2)=O)CO | C10H17N3O4
reactant | tert-butyl 2,4-dioxo-1,3,8-triaza-8-spiro[4.5]decanecarboxylate | O=C1NC2(C(N1)=O)CCN(CC2)C(=O)OC(C)(C)C | C12H19N3O4
product | tert-butyl 2,4-dioxo-3-(2,3-epoxypropyl)-1,3,8-triaza-8-spiro[4.5]decanecarboxylate | O=C1NC2(C(N1CC1CO1)=O)CCN(CC2)C(=O)OC(C)(C)C | C15H23N3O5
